US09376418B2
Ethanolamine (26.3 mg, 0.431 mmol) was added to a mixture of N-[3-(5-fluoropyridin-3-yl)-5-methylphenyl]-4-(trifluoromethyl)pyrimidin-2-amine (50.0 mg, 0.144 mmol) and sodium hydride (17.2 mg, 0.431 mmol) in THF (0.718 mL, 0.2 M). The reaction mixture was heated overnight at 80° C. The reaction mixture was quenched with saturated aqueous NH4Cl and extracted with chloroform. The organic layer was concentrated in vacuo and purified by reverse phase liquid chromatography (10:90 to 60:40, acetonitrile:water) afforded 2-{[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-3-yl]amino}ethanol as the formic acid salt. MS APCI calc'd for C19H19F3N5O [M+H]+ 390. found 390. 1H NMR (500 MHz, DMSO-d6) δ 10.28 (s, 1H), 8.83 (d, J=4.9 Hz, 1H), 8.48 (s, 1H), 8.34 (d, J=2.6 Hz, 1H), 7.99 (d, J=11.4 Hz, 3H), 7.59 (d, J=26.7 Hz, 2H), 7.34-7.12 (m, 2H), 4.33 (t, J=4.9 Hz, 2H), 3.77 (br s, 3H), 3.27 (t, J=5.3 Hz, 2H).

reactant | Ethanolamine | 0.431 mmol, 26.3 mg | C(O)CN | C2H7NO
reactant | N-[3-(5-fluoropyridin-3-yl)-5-methylphenyl]-4-(trifluoromethyl)pyrimidin-2-amine | 0.144 mmol, 50.0 mg | FC=1C=C(C=NC1)C=1C=C(C=C(C1)C)NC1=NC=CC(=N1)C(F)(F)F | C17H12F4N4
reactant | sodium hydride | 0.431 mmol, 17.2 mg | [H-].[Na+]
solvent | THF | 0.2 M, 0.718 mL | C1CCOC1 | C4H8O
product | 2-{[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-3-yl]amino}ethanol | CC=1C=C(C=C(C1)NC1=NC=CC(=N1)C(F)(F)F)C=1C=C(C=NC1)NCCO | C19H18F3N5O
